US04000294
(4-Methyl-1-(3,4-dichlorobenzyl)-pyrazol-5-one, by Process Variant A).
10.9 g of 3,4-dichlorobenzylhydrazine were added dropwise to a solution of 7.5 g of α-formylpropionic acid ethyl ester in 50 ml of ethanol. After stirring overnight at room temperature, the solvent was distilled off in vacuo and the solid residue was recrystallized from ethanol.

reactant | 3,4-dichlorobenzylhydrazine | 10.9 g | ClC=1C=C(CNN)C=CC1Cl | C7H8Cl2N2
reactant | α-formylpropionic acid ethyl ester | 7.5 g | C(C)OC(C(C)C=O)=O | C6H10O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-Methyl-1-(3,4-dichlorobenzyl)-pyrazol-5-one | CC1=CNN(C1=O)CC1=CC(=C(C=C1)Cl)Cl | C11H10Cl2N2O
